US07968581B2
Step 1: Methyl 2-methylamino-2-phenylacetate
6.63 mL of thionyl chloride are slowly added to a solution of 1.5 g of 2-methylamino-2-phenylacetic acid in 100 mL of methanol. The mixture is heterogenous and becomes limpid after two hours stirring. The mixture is stirred for 48 h at rt then the solvent is evaporated to dryness. The crude product is diluted with an aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phases are washed with water then brine, and dried over magnesium sulfate, filtered and evaporated to provide the desired product, which is used as such for the next step.

reactant | thionyl chloride | 6.63 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methylamino-2-phenylacetic acid | 1.5 g | CNC(C(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | methanol | 100 mL | CO | CH4O
product | Methyl 2-methylamino-2-phenylacetate | CNC(C(=O)OC)C1=CC=CC=C1 | C10H13NO2
